* BFG540 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT143 DIE MODEL : BFR540
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFG540 1 2 3
Q1 6 5 7 7 BFR540
* SOT 143 parasitic model
               Lb  4 5 .95n
               Le  7 8 .4n
               L1  2 4 .12n
               L2  1 6 .21n
               L3  3 8 .06n
              Ccb  4 6 17f
              Cbe  4 8 84f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFR540.PRM                                     Date: Feb 1992
*
.MODEL  BFR540   NPN
+(
+              IS = 1.04516E-015
+              BF = 1.84359E+002
+              NF = 9.81774E-001
+             VAF = 4.16981E+001
+             IKF = 1.00000E+001
+             ISE = 2.32436E-013
+              NE = 2.02825E+000
+              BR = 4.39917E+001
+              NR = 9.92532E-001
+             VAR = 2.09773E+000
+             IKR = 1.66296E-001
+             ISC = 1.29849E-016
+              NC = 1.06486E+000
+              RB = 5.00000E+000
+             IRB = 1.00000E-006
+             RBM = 5.00000E+000
+              RE = 3.53552E-001
+              RC = 1.34000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 1.97895E-012
+             VJE = 6.00000E-001
+             MJE = 3.32695E-001
+              TF = 7.45719E-012
+             XTF = 1.14072E+001
+             VTF = 3.15854E+000
+             ITF = 1.56917E-001
+             CJC = 7.93745E-013
+             VJC = 1.85522E-001
+             MJC = 8.41656E-002
+)
.ENDS