* BFG25AW_X SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT343X DIE MODEL : BFT25A
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFG25AW_X 1 2 3
Q1 6 5 7 7 BFT25A
* SOT343X parasitic model
               Lb  4 5 .4n
               Le  7 8 .4n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .25n
              Ccb  4 6 50f
              Cbe  4 8 70f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFT25A.PRM                                     Date: Feb 1992
*
.MODEL  BFT25A   NPN
+(
+              IS = 1.37749E-017
+              BF = 8.56539E+001
+              NF = 9.79900E-001
+             VAF = 5.08049E+001
+             IKF = 1.00000E+001
+             ISE = 2.19977E-015
+              NE = 1.85715E+000
+              BR = 1.69751E+001
+              NR = 9.85511E-001
+             VAR = 2.49144E+000
+             IKR = 1.88014E-001
+             ISC = 2.05160E-016
+              NC = 1.10731E+000
+              RB = 8.00000E+001
+             IRB = 1.00000E-006
+             RBM = 8.00000E+001
+              RE = 7.91100E+000
+              RC = 5.30000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 2.23030E-013
+             VJE = 6.69700E-001
+             MJE = 5.96638E-002
+              TF = 5.11209E-012
+             XTF = 7.90917E+000
+             VTF = 1.33880E+000
+             ITF = 5.66263E-003
+             PTF = 1.53714E+001
+             CJC = 2.29018E-013
+             VJC = 3.94786E-001
+)
.ENDS