.SUBCKT BFG425W 1 2 3
L1   2 5 1.1E-09
L2   1 4 1.1E-09
L3   3 6 0.25E-09
Ccb  4 5 2.0E-15
Cbe  5 6 80.0E-15
Cce  4 6 80.0E-15
Cbpb 5 7 1.45E-13
Cbpc 4 8 1.45E-13
Rsb1 6 7 25
Rsb2 6 8 19
Q1 4 5 6 6 NPN

.MODEL NPN NPN
+(
+ IS = 4.717E-17
+ BF = 145
+ NF = 0.9934
+ VAF = 31.12
+ IKF = 0.304
+ ISE = 3.002E-13
+ NE = 3
+ BR = 11.37
+ NR = 0.985
+ VAR = 1.874
+ IKR = 0.121
+ ISC = 4.848E-16
+ NC = 1.546
+ RB = 14.41
+ IRB = 0
+ RBM = 6.175
+ RE = 0.1779
+ RC = 1.780
+ CJE = 3.109E-13
+ VJE = 0.9
+ MJE = 0.3456
+ CJC = 1.377E-13
+ VJC = 0.5569
+ MJC = 0.2079
+ CJS = 6.675E-13
+ VJS = 0.4183
+ MJS = 0.2391
+ XCJC = 0.5
+ TR = 0.0
+ TF = 4.122E-12
+ XTF = 68.2
+ VTF = 2.004
+ ITF = 1.525
+ PTF = 0
+ FC = 0.5501
+ EG = 1.11
+ XTI = 3
+ XTB = 1.5
+)
.ENDS